US04895973
(B) 4-allyl-4,6-dihydroxynonadec-1-ene (4,R=CH3,R'=H, m=12)
To a small amount of freshly prepared allyl magnesium bromide and 1.7 g of Mg (0.07 mole) covered with THF was added a solution of 3.7 g of 3-hydroxyhexadecanoic acid ethyl ester (0.0123 mole) and 6.05 g (0.05 mole) of allyl bromide in 100 ml of THF. The addition proceeded so as to maintain a reflux temperature. The mixture was heated at refluxing temperature for 1 hr., cooled, and poured into saturated aq. ammonium chloride solution. The mixture was extracted with ether and the ether solution was dried over MgSO4 and distilled to dryness. The crude product weighed 5.0 g and could be used without further purification. The product could be purified by column chromatography on silica gel using ethyl acetate-hexane (15:85) as the eluant; δ (CDCl3), 1.28(CH2), 4.90-5.25(m, =CH2) and 5.4-6.2(m,=CH).

reactant | allyl magnesium bromide | C(C=C)[Mg]Br
reactant | 3-hydroxyhexadecanoic acid ethyl ester | 0.0123 mole, 3.7 g | C(C)OC(CC(CCCCCCCCCCCCC)O)=O | C18H36O3
reactant | allyl bromide | 0.05 mole, 6.05 g | C(C=C)Br | C3H5Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 4-allyl-4,6-dihydroxynonadec-1-ene | C(C=C)C(CC=C)(CC(CCCCCCCCCCCCC)O)O | C22H42O2
